US08663897B2
Into a 100-mL reaction vessel with a condenser were added 30 g (purity: 46%, 95.1 mmol) of methacryloyloxyacetic acid (prepared in a method described in International Publication No. 96/41841 and the like), 347 mg (4.8 mmol/0.05 eq) of dimethylformamide and 47.6 g (380.5 mmol/4.0 eq) of thionyl chloride. The resulting solution was stirred at 70° C. for 1 hour and subjected to distillation purification, thereby obtaining 10.0 g of target methacryloyloxyacetyl chloride. The purity of the target product was 70%; and the yield of the target product was 45%.

reactant | methacryloyloxyacetic acid | 95.1 mmol, 30 g | C(C(=C)C)(=O)OCC(=O)O | C6H8O4
reactant | dimethylformamide | 4.8 mmol, 347 mg, 0.05 eq | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 380.5 mmol, 47.6 g, 4.0 eq | S(=O)(Cl)Cl | Cl2OS
product | methacryloyloxyacetyl chloride | C(C(=C)C)(=O)OCC(=O)Cl | C6H7ClO3
